US07595397B2
1-[2-(S)Benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone
50 mg of 3-(S)-benzyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine were dissolved in THF, 2 equiv. of acetylchloride and 2 equiv. of N,N-diisopropylethylamine were added. The reaction was stirred at room temperature under nitrogen overnight. The reaction was concentrated, the residue redissolved in DCM, washed with saturated aqueous sodium bicarbonate solution, then dried over sodium sulfate, filtered and concentrated in vacuo. The crude residue was purified by column chromatography to afford the title compound as its freebase. Treatment with 1M HCl in dioxane gave 38 mg of the title compound as its hydrochloride salt Yield: 63%, ES MS (+) m/z 419.

reactant | 3-(S)-benzyl-1-(2′-chloro-5′-methyl-biphenyl-4-ylmethyl)-piperazine | 50 mg | C(C1=CC=CC=C1)[C@H]1CN(CCN1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)C)Cl | C25H27ClN2
reactant | acetylchloride | 2 equiv. | C(C)(=O)Cl | C2H3ClO
reactant | N,N-diisopropylethylamine | 2 equiv. | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-(S)Benzyl-4-(2′-chloro-biphenyl-4-ylmethyl)-piperazin-1-yl]-ethanone | C(C1=CC=CC=C1)[C@@H]1N(CCN(C1)CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl)C(C)=O | C26H27ClN2O
